US07332521B2
Synthesis of 1-benzyl-5-[(3-methylphenyl)amino]-3-phenyl-1H-indole-2-carboxylic acid
3-Methylphenylboronic acid (0.20 g, 1.5 mmol), Cu(OAc)2 (0.036 g, 0.2 mmol), and myristic acid (0.046 g, 0.2 mmol) were combined in a 100-mL round-bottom flask with a large stir bar. A rubber septum was attached, and dry toluene (2 mL), 2,6-lutidine (0.116 mL, 1.0 mmol), and ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate (0.19 g, 0.5 mmol) were successively added. The resulting mixture was stirred at a high rate for 24 h, diluted with ethyl acetate (10 mL), filtered through a plug of silica gel, and then purified by column chromatography (5 to 25% EtOAc/hexanes) to give a gummy solid. To a stirred solution of the gummy solid in 15 mL of 2:1:1 THF/MeOH/water was added lithium hydroxide monohydrate (0.2 g, 4.8 mmol). The reaction was stirred at 40° C. for 5 h. Most of the organic solvents was removed and the reaction mixture was made acidic (pH 6) with glacial acetic acid, and the solid was collected and purified by semi-preparative HPLC (Column: Phenomenex C18 Luna 21.6 mm×60 mm, 5 μM; Solvent A: Water (0.1% TFA buffer); Solvent B: Acetonitrile (0.1% TFA buffer); Solvent Gradient: Time 0: 0% B; 10 min: 100% B; Hold 100% B 5 min. Flow Rate: 22.5 mL/min) The product was collected based on UV absorption and concentrated to give the title compound as a brown solid (0.11 g, 50%): 1H NMR (DMSO-d6) δ 2.18 (s, 3 H), 5.81 (s, 2 H), 6.51-6.53 (m, 1 H), 6.70-6.72 (m, 1 H), 6.75-6.80 (m, 1 H), 7.00-7.60 (m, 13 H), 7.88 (s,1 H), 12.86 (s, 1 H); MS (ESI) m/z 433 (MH+); MS (ESI) m/z 431 ([M-H]=); Anal. calcd. for C29H24N2O2.0.1H2O: C, 80.20; H, 5.62; N, 6.45. Found: C, 80.03; H, 5.61; N, 6.61.

reactant | 3-Methylphenylboronic acid | 1.5 mmol, 0.20 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | myristic acid | 0.2 mmol, 0.046 g | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | 2,6-lutidine | 1.0 mmol, 0.116 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate | 0.5 mmol, 0.19 g | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)OCC)C1=CC=CC=C1 | C24H22N2O2
reactant | lithium hydroxide monohydrate | 4.8 mmol, 0.2 g | O.[OH-].[Li+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | THF MeOH water | 15 mL | C1CCOC1.CO.O
catalyst | Cu(OAc)2 | 0.2 mmol, 0.036 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-5-[(3-methylphenyl)amino]-3-phenyl-1H-indole-2-carboxylic acid | 0.11 g, 50% | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)NC1=CC(=CC=C1)C)C1=CC=CC=C1)C(=O)O | C29H24N2O2
